US06239151B1
A solution of 0.459 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide in 5 ml of dichloromethane was treated under nitrogen at 0° C. with 0.28 ml of triethylamine and a solution of the acid chloride prepared from 0.166 g of 2-pyrrolecarboxylic acid in 3 ml of dichloromethane. The mixture was stirred at 0° C. for 2 hours and evaporated. The residue was dissolved in ethyl acetate. The solution was washed with 5% aqueous sodium hydrogen carbonate solution, water, 5% citric acid solution and saturated sodium chloride solution, dried over anhydrous magnesium sulphate and was evaporated to give a solid. Chromatography of this solid on silica gel using dichloromethane/methanol (50:1) for the elution followed by evaporation and trituration with diethyl ether gave 0.225 g of (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[(2-pyrrolyl)carbonyl]valerohydrazide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methylvalerohydrazide | 0.459 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NNCC(C)C)CC(C)C | C26H41N3O4
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | 2-pyrrolecarboxylic acid | 0.166 g | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | dichloromethane methanol | ClCCl.CO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (E)-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-2′-isobutyl-4-methyl-2′-[(2-pyrrolyl)carbonyl]valerohydrazide | 0.225 g | O1C(CCCC1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN(C(=O)C=1NC=CC1)CC(C)C)CC(C)C | C31H44N4O5
